US04371720
(R)-1-Bromo-2-benzyloxy-4-(1-methyl-4-phenylbutoxy)benzene
A mixture of 21.8 g. (78 mmole) of 3-benzyloxy-4-bromophenol, 20.0 g. (82.6 mmole) of (S)-1-methyl-4-phenylbutylmethane sulfonate and 25.2 g. (200 mmole) of potassium carbonate in 100 ml. dimethylformamide was heated at 85° C. for 13.5 hours. The reaction was cooled and added to 500 ml. water-500 ml. ether. The organic extract was washed with two 250 ml. portions of water, dried over magnesium sulfate and evaporated to an oil. The crude oil was purified via column chromatography on 750 g. of silica gel eluted with 10% ether-hexane to yield 23.9 g. (72%) of the title compound as an oil.

reactant | 3-benzyloxy-4-bromophenol | 78 mmole | C(C1=CC=CC=C1)OC=1C=C(C=CC1Br)O | C13H11BrO2
reactant | (S)-1-methyl-4-phenylbutylmethane sulfonate | 82.6 mmole | C[C@H](S(=O)(=O)[O-])CCCCC1=CC=CC=C1
reactant | potassium carbonate | 200 mmole | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | water | 500 ml | O | H2O
product | (R)-1-Bromo-2-benzyloxy-4-(1-methyl-4-phenylbutoxy)benzene | 72% | BrC1=C(C=C(C=C1)O[C@@H](CCCC1=CC=CC=C1)C)OCC1=CC=CC=C1 | C24H25BrO2
